US04585775
(a1) 1-(2-Picolyl)-2-chloro-benzimidazole
61.0 g of 2-chlorobenzimidazole are first added at 25° C. to a suspension of 41.9 g of sodium hydride (55-60% dispersion) in 500 ml of dimethylformamide, and 66.0 g of 2-picolyl chloride-hydrochloride are then added. The mixture is stirred for 1 hour at room temperature and for a further 2 hours at 60° C. After dilution with 1 liter of ethyl acetate, 250 ml of water are carefully added dropwise, the phases are separated, and the ethyl acetate phase is concentrated in vacuo. The remaining product melts at 75°-77° C.

reactant | 2-chlorobenzimidazole | 61.0 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | sodium hydride | 41.9 g | [H-].[Na+]
reactant | 2-picolyl chloride-hydrochloride | 66.0 g | Cl.N1=C(C=CC=C1)CCl
reactant | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | 1-(2-Picolyl)-2-chloro-benzimidazole | N1=C(C=CC=C1)CN1C(=NC2=C1C=CC=C2)Cl | C13H10ClN3
